US07947834B2
0.11 g of 1-[(4-(pyridin-4-yl)piperidin-1-yl)carbonyl]-1,2,3,4-tetrahydroquinoline, dissolved in 3 ml of dichloromethane, is introduced into a 25 ml round-bottomed flask. 3.5 ml of a 0.2N solution of hydrochloric acid in ether are subsequently added. Stirring is maintained for 10 min. After evaporating, the residue is taken up in ethyl acetate. The precipitate is filtered off then dried under vacuum. 0.09 g of 1-[(4-(pyridin-4-yl)piperidin-1-yl)carbonyl]-1,2,3,4-tetrahydroquinoline hydrochloride is obtained.

reactant | 1-[(4-(pyridin-4-yl)piperidin-1-yl)carbonyl]-1,2,3,4-tetrahydroquinoline | 0.11 g | N1=CC=C(C=C1)C1CCN(CC1)C(=O)N1CCCC2=CC=CC=C12 | C20H23N3O
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 1-[(4-(pyridin-4-yl)piperidin-1-yl)carbonyl]-1,2,3,4-tetrahydroquinoline hydrochloride | 0.09 g | Cl.N1=CC=C(C=C1)C1CCN(CC1)C(=O)N1CCCC2=CC=CC=C12 | InChI=1S/C20H23N3O.ClH/c24-20(23-13-3-5-18-4-1-2-6-19(18)23)22-14-9-17(10-15-22)16-7-11-21-12-8-16;/h1-2,4,6-8,11-12,17H,3,5,9-10,13-15H2;1H
